US03979381
A. Tetrahydro-3,5-bis(phenylmethylene)-4H-thiopyran-4-one-1-oxide
A solution of 10.4g of sodium periodate in 50ml of water is added to a suspension of 7.0g of tetrahydro-3,5-bis-(phenylmethylene)-4H-thiopyran-4-one in 300ml of methanol. The mixture is stirred at room temperature for 3 days (a water bath is used for the first hour to moderate a slightly exothermic reaction). Solvent is removed in vacuo and the residue is stirred with chloroform and filtered. The filtrate is concentrated in vacuo and the residue is crystallized from 150ml of methanol, giving 6.4g of the title compound, melting point 155°-160°C. A second crop of 0.5g of the title compound, melting point 154°-157°C is also obtained.

reactant | sodium periodate | 10.4g | I(=O)(=O)(=O)[O-].[Na+]
reactant | tetrahydro-3,5-bis-(phenylmethylene)-4H-thiopyran-4-one | 7.0g | C1(=CC=CC=C1)C=C1CSCC(C1=O)=CC1=CC=CC=C1 | C19H16OS
solvent | water | 50ml | O | H2O
solvent | methanol | 300ml | CO | CH4O
product | Tetrahydro-3,5-bis(phenylmethylene)-4H-thiopyran-4-one-1-oxide | 6.4g | C1(=CC=CC=C1)C=C1CS(CC(C1=O)=CC1=CC=CC=C1)=O | C19H16O2S
